
*$
*********************************************************************
* (C)Copyright 2022 Nisshinbo Micro Device Inc. Allright reserved.
*********************************************************************
*  Date                 : 08/30/2022
*  File Name            : NJM2059x_v0201.lib
*  Part Number          : NJM2059x
*  Model Ver.           : 0101
*  Simulator            : PSpice Ver.17.2
*  Model Call Name      : NJM2059x
*  TNOM                 : 25 degree(with temperature model)
*********************************************************************
.SUBCKT NJM2059x OUT1 -IN1 +IN1 V+ +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 
+ V- +IN4 -IN4 OUT4
X1 +IN1 -IN1 V+ V- OUT1 njm2059_s
X2 +IN2 -IN2 V+ V- OUT2 njm2059_s
X3 +IN3 -IN3 V+ V- OUT3 njm2059_s
X4 +IN4 -IN4 V+ V- OUT4 njm2059_s
.ENDS NJM2059x
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm2059_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 10 20 DMOD2
VTL 3 20 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 3 10 {ITL}
Q1 11 2 13 PNP1 
Q2 12 1 14 PNP2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 21 4 {VRC}
VRC2 22 4 {VRC}
RE2 10 14 {RE1}
RE1 10 13 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}

.MODEL DMOD1 D(T_MEASURED = 25 IS = 6.68E-28)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)

.MODEL PNP1 PNP(TREF = 25 IS = 8.00E-16 BF = 16351.585)
.MODEL PNP2 PNP(TREF = 25 IS = {ISM2} BF = {BFM2})

.PARAM
+ C1   = 1.28E-10
+ C2   = 2.77E-10
+ CE   = 0.00E+00
+ GCM  = 3.46E-07
+ GA   = 1.12E-02
+ GB   = 3.66
+ GC   = 8.49E+04
+ ITL  = 5.80E-04
+ RC1  = 91.47
+ RC   = 1.18E-05
+ RE1  = 2.87
+ RE   = 3.45E+05
+ RO1  = 50
+ RO2  = 25
+ RP   = 4.40E+05
+ VC   = 2.80639
+ VE   = 2.80639
+VTL   = 1.00E+00
+VRC   = 1.45
+ICE   = 1.102E-3
+BFM2 = 12948.261
+ISM2 = 8.149385249E-16
.ends njm2059_s
*$
