*********************************************************************
* (C)Copyright 2023 Nisshinbo Micro Device Inc. Allright reserved.
*********************************************************************
*  Date                 : 1/27/2023
*  Model No.            : NJM8080x_v0301
*  Simulator            : PSpice17.2
*  TNOM                 : 25 degree(with temperature model)
**********************************************************************
*$
.SUBCKT NJM8080x OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 njm8080_s
X2 +IN2 -IN2 V+ V- OUT2 njm8080_s
.ENDS NJM8080x
*$
* connections:    non-inverting input
*                 | inverting input
*                 | | positive power supply
*                 | | | negative power supply
*                 | | | | output
*                 | | | | |
*                 | | | | |
.subckt njm8080_s 1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
C3 11 99 {C3}
R3 99 12 {R3}　 
CE 10 0 {CE}
RE 10 0 {RE}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 20 10 DMOD2
VTL 20 4 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
Q1 11 2 13 NPN1 
Q2 12 1 14 NPN2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RC1 11 21 {RC1}
RC2 12 22 {RC1}
VRC1 3 21 {VRC}
VRC2 3 22 {VRC}
RE2 14 10 {RE1}
RE1 13 10 {RE1}
ICE 3 4 {ICE}
RP 3 4 {RP}
VE 19 4 DC {VE}
VC 3 18 DC {VC}
.MODEL DMOD1 D(T_MEASURED = 25 IS = 1.63E-65)
.MODEL DMOD2 D(T_MEASURED = 25 IS = 8.00E-16)
.MODEL NPN1 NPN(TREF = 25 IS = 8.00E-16 BF =10765.87)
.MODEL NPN2 NPN(TREF = 25 IS = {ISM2} BF = {BFM2})
.PARAM
+ C1   = 8.5E-11
+ C2   = 1.4E-10
+ C3   = 1.5E-9
+ R3   = 20
+ CE   = 0.00E+00
+ GCM  = 5.96E-08
+ GA   = 1.88E-02
+ GB   = 6.71
+ GC   = 1.68E+04
+ ITL  = 2.2E-03
+ RC1  = 21.0
+ RC   = 5.96E-05
+ RE1  = 3.67
+ RE   = 2.00E+05
+ RO1  = 35
+ RO2  = 40
+ RP   = 7.5E+04
+ VC   = 2.334
+ VE   = 2.334
+ VTL  = 0.20E+00
+ VRC  = 1.95
+ ICE  = 0.1E-3
+ BFM2 = 11203.83
+ ISM2 = 7.9068440E-16
.ends njm8080_s
*$
